US04048191
A solution of 0.90 g (0.005 mole) of 4-bromopyrrole-2-acetonitrile and 0.87 g of p-chlorobenzoyl chloride (0.0005 mole) in 10 ml of methylene chloride is chilled in a dry-ice acetone bath to -30° C and is stirred while treated with 0.58 mg of anhydrous stannic chloride (0.005 mole). An orange solid precipitates. The reaction mixture is allowed to warm slowly over 1 hour to 5° C and is poured and scraped into ice-water. The whole is extracted with chloroform and the combined organic layers are washed successively with aqueous N,N-dimethylamino-1,3-propanediamine, 3N hydrochloric acid, aqueous sodium bicarbonate solution, and brine, and are dried over sodium sulfate. The viscous oil which results from evaporation of the solvent is vacuo is chromatographed on silica gel (Mallinkrodt CC-7) packed with benzene and eluated with a benzene-ether gradient. The desired material is eluted with 15% ether in benzene and recrystallized from methanol to give 4-bromo-5-(p-chlorobenzoyl)pyrrole-2-acetonitrile as a beige solid; m.p. 185°-186° C.

reactant | 4-bromopyrrole-2-acetonitrile | 0.005 mole, 0.90 g | BrC=1C=C(NC1)CC#N | C6H5BrN2
reactant | p-chlorobenzoyl chloride | 0.0005 mole, 0.87 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-5-(p-chlorobenzoyl)pyrrole-2-acetonitrile | BrC=1C=C(NC1C(C1=CC=C(C=C1)Cl)=O)CC#N | C13H8BrClN2O
